US06211199B1
102.2 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt
Combine 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine (0.22 g, 0.33 mmol) and methanol (4 mL). Add a solution of hydrochloric acid in dioxane (0.166 mL, 4 M, 0.62 mmol). After 18 hours, evaporate in vacuo to give a residue. Three times, combine the residue and dichloromethane and evaporate in vacuo to give a residue. Combine the residue and dichloromethane (about 2 mL) slowly add, with stirring, to diethyl ether (40 mL) to give a solid. Collect the solid by filtration and dry in vacuo to give the title compound: mp; 184-206° C.

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | 0.33 mmol, 0.22 g | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC=2OC=CC2)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C38H41N9O3
reactant | methanol | 4 mL | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 0.62 mmol, 4 M, 0.166 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | dichloromethane | about 2 mL | ClCCl | CH2Cl2
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC=2OC=CC2)C=CC=C3)C=C(C=C1)N1N=NN=C1 | InChI=1S/C38H41N9O3.ClH/c1-49-35-14-13-30(47-27-39-42-43-47)24-32(35)36(48)45-22-18-38(26-45,28-8-3-2-4-9-28)17-21-44-19-15-29(16-20-44)40-37-41-33-11-5-6-12-34(33)46(37)25-31-10-7-23-50-31;/h2-14,23-24,27,29H,15-22,25-26H2,1H3,(H,40,41);1H
